US06800651B2
Sodium hydride (60% in mineral oil, 0.072 g, 1.8 mmol) was suspended in DMF at 0° C. To the dispersion was added dropwise N-(3-hydroxyphenyl)pyrid-3-ylmethylamine (0.250 g, 1.24 mmol) as a solution in DMF. The reaction mixture was stirred at room temperature for 30 min. Then bromocyclobutane (0.25 g, 1.84 mmol) was added as a solution in DMF. The reaction was concentrated and the residue was diluted with water, extracted with EtOAc, washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by silica-gel chromatography to give N-(4-(3-Cyclobutyloxyphenyl)pyrid-3-ylmethylamine. 1H NMR:, 8.61 (d,1H,J=2.3 Hz), 8.51 (q,1H,J=1.6, 3.13), 7.68 (m,1H), 7.25 (m,1H), 7.04 (t,1H,1.7 Hz), 6.18-6.24 (m,2H), 6.09 (t,1H,J=2.3 Hz), 4.6 (quint,1H,J=6.7 Hz), 2.33-2.42 (m,2H,), 2.06-2.18 (m,2H), 1.76-1.88 (m,1H), 1.57-1.70 (m,1H). MS calcd. 254.1; MS (M+1) 255.1.

reactant | Sodium hydride | 1.8 mmol, 0.072 g | [H-].[Na+]
reactant | N-(3-hydroxyphenyl)pyrid-3-ylmethylamine | 1.24 mmol, 0.250 g | OC=1C=C(C=CC1)NCC=1C=NC=CC1 | C12H12N2O
reactant | bromocyclobutane | 1.84 mmol, 0.25 g | BrC1CCC1 | C4H7Br
reactant | DMF | CN(C)C=O | C3H7NO
product | 4-(3-Cyclobutyloxyphenyl)pyrid-3-ylmethylamine | C1(CCC1)OC=1C=C(C=CC1)C1=C(C=NC=C1)CN | C16H18N2O
